US08455477B2
To a solution of 1,8-naphthyridin-4-ol (59 g, 400 mmol) in acetonitrile (500 ml) was added phosphorus oxide tribromide. The reaction mixture was heated to reflux. After 1 hour, the reaction mixture was carefully diluted with ice and the resulting solution was basified with ammonia solution (25%) to pH>7. The reaction mixture was partially concentrated in vacuo, then extracted with chloroform (4×500 ml). The organics were dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was purified by column chromatography on silica gel (ethyl acetate/petroleum ether gradient) to afford 4-bromo-1,8-naphthyridine.

reactant | 1,8-naphthyridin-4-ol | 400 mmol, 59 g | N1=CC=C(C2=CC=CN=C12)O | C8H6N2O
reactant | phosphorus oxide tribromide | [Br-].[Br-].[Br-].[P+3]=O
reactant | ammonia | N | H3N
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
product | 4-bromo-1,8-naphthyridine | BrC1=CC=NC2=NC=CC=C12 | C8H5BrN2
